Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right leg and arm weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old right handed man with hx of uncontrolled HTN, HPL 
not
on any medication presented to ED after he developed right arm
and leg heaviness.
He noted that this morning around ___, while he was watching 
TV,
he wanted to touch the top of his head with his right hand, 
after
that when he tried to put the hand down he felt that it was
heavy, he denied numbness or weakness, but it was heavy.
Then when he wanted to walk he noticed that his right leg was
heavy, as if he can not control it's movement, but he was able 
to
move the leg.
He denied any headache, but noted to be slightly light-headed
with cold sweats.
He denied using any drugs, any unusual activity or food.
By the time, he arrived at ED his symptoms resolved and his
Initial NIHSS was 0.
He never had similar symptoms in the past. 
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN, HLD, cocaine abuse
 
Social History:
___
Family History:
There is no history of seizures, developmental disability,
learning disorders, migraine headaches, strokes less than 50,
neuromuscular disorders, or movement disorders. 

 
Physical Exam:
ADMISSION EXAM:
Exam: awake, alert, oriented. normal language incl. fluency,
repetition, naming, command following.  no hemineglect.  cranial
nerves are normal including sensation to LT and PP.  Sensation 
to
LT and PP normal throughout. No pronator drift but slowed finger
tapping on R and orbitting on R.  Perhaps subtle R triceps
weakness as well but otherwise normal strenght throughout. 
Slower FTN on R but no dysmetria.

DISCHARGE EXAM:
Afebrile. BP 131-151/76-92; 80; 18; 97% RA. Awake & alert.
___ -- intact. CN:II-XII intact. Subtle right
HP/clumsiness.

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:40PM BLOOD WBC-6.4 RBC-4.61 Hgb-14.8 Hct-42.0 MCV-91 
MCH-32.0 MCHC-35.1* RDW-13.0 Plt ___
___ 12:40PM BLOOD ___ PTT-27.8 ___
___ 12:40PM BLOOD UreaN-14
___ 12:48PM BLOOD Creat-0.9
___ 09:36AM BLOOD Glucose-134* UreaN-16 Creat-0.8 Na-133 
K-4.0 Cl-96 HCO3-24 AnGap-17
___ 12:40PM BLOOD ALT-23 AST-15 AlkPhos-59 TotBili-0.3
___ 09:36AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.5
___ 05:33PM BLOOD %HbA1c-6.3* eAG-134*
___ 05:33PM BLOOD Triglyc-385* HDL-39 CHOL/HD-6.7 
LDLcalc-144* LDLmeas-172*
___ 12:43PM BLOOD Glucose-170* Na-139 K-3.9 Cl-98 
calHCO3-25

PERTINENT STUDIES
=================

___ MRI HEAD W/O CONTRAST:
IMPRESSION:  
Small acute ischemic event identified in the posterior limb of 
the left 
internal capsule as described above, there is no evidence of 
mass effect or hemorrhagic transformation. 

___ CTA HEAD/NECK
1. No signs of acute infarct.  No perfusion defects identified. 
2. Normal head and neck CTA.  Patent intracranial vasculature 
without evidence 
of dissection or aneurysm greater than 3 mm. 
3. Multiple bilateral scattered subcentimeter lymph nodes in the 
neck 
including a 1.4 x 0.9 cm right supraclavicular lymph node 

 
Brief Hospital Course:
___ year-old right-handed man with HTN, HDL who presented to the 
ED
with right arm and leg weakness and heaviness and was found to 
have acute infarct in the poterior limb of internal capsule. Pt 
was started on ASA 81, atorvastatin 40mg and lisinopril 5 mg for 
risk factor modification. His symptoms had improved by time of 
admission and he was evaluated by ___ and OT and discharged to 
home with services.

TRANSITIONAL ISSUES
===================
-Started ASA 81mg qd
-Started Atorvastatin 80mg qd
-Started Lisinopril 5mg qd.
-Please continue to monitor blood pressure for control of HTN on 
outpatient follow-ups.
-Pt's urine tox screen was positive for cocaine and pt 
acknowledged a pattern of cocaine abuse at parties he would 
attend weekly. He was educated on the risks of cocaine abuse and 
expressed willingness to abstain from further use. Would 
recommend continued encouragement to abstain from further drug 
abuse.
-Per ___ CT scan showing "Multiple bilateral scattered 
subcentimeter lymph nodes in the neck including a 1.4 x 0.9 cm 
right supraclavicular lymph node". Would recommend followup CT 
scan in ___ months for interval assessment.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Physical Therapy
Rolling walker, diagnosis- unsteady gait, prognosis- good, 
length of stay- 13 months
2. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6
4. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of right-sided body 
weakness and sensory changes resulting from an ACUTE ISCHEMIC 
STROKE, a condition in which a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. Damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-Hypertension, Hyperlipidemia, cocaine abuse

We are changing your medications as follows:  
Start: Aspirin 81mg daily, atorvastatin 40mg daily and 
lisinopril 5 mg daily

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
- sudden difficulty pronouncing words (slurring of speech)  
- sudden blurring or doubling of vision  
- sudden onset of vertigo (sensation of your environment 
spinning around you)  
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)  
- sudden severe headache accompanied by the inability to stay 
awake  
It was a pleasure providing you with care during this 
hospitalization.  

 
Followup Instructions:
___